US05977178
To a solution of N-t-butyloxycarbonyl-(S)-prolinol (5.0 g, 25 mmol) in 1,2-dichloroethane (500 ml) rhodium(II)acetate (180 mg) was added and the mixture was heated to 80° C. Ethyldiazoacetate (3.9 ml, 37 mmol) in 1,2-dichloroethane (180 ml) was added over a period of 90 min and the mixture was heated at 80° C. for 3 hours. Then another portion of ethyldiazoacetate (1.3 ml, 12 mmol) in 1,2-dichloroethane (40 ml) was added and the mixture was refluxed for 6 hours. The mixture was cooled to room temperature and washed with saturated sodium bicarbonate (2×100 ml) and brine (100 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was chromatographed on silica (300 g) with petrol ether/ethyl acetate 4:1 as eluent to give 4.7 g of (2S)-2-(((ethoxycarbonyl)methoxy)methyl)pyrrolidin-1-carboxylic acid tert-butylester. The obtained product was taken up in 50 ml of 1M lithium hydroxide in water/methanol 1:3 and stirred at room temperature overnight. The mixture was concentrated in vacuo, water (20 mL) was added and washed with ether (20 mL). The aqueous phase was acidified to pH 4 with 1M aqueous hydrogen chloride and extracted with ethyl acetate (200 ml), dried over magnesium sulfate and concentrated in vacuo to give 3.6 g of (2S)-2-(((carboxy)methoxy)methyl)pyrrolidin-1-carboxylic acid tert-butylester.

reactant | N-t-butyloxycarbonyl-(S)-prolinol | 25 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1[C@H](CO)CCC1 | C10H19NO3
reactant | Ethyldiazoacetate | 37 mmol, 3.9 ml | C(C)OC(C=[N+]=[N-])=O | C4H6N2O2
reactant | ethyldiazoacetate | 12 mmol, 1.3 ml | C(C)OC(C=[N+]=[N-])=O | C4H6N2O2
solvent | 1,2-dichloroethane | 500 ml, 180 mg | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 180 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | (2S)-2-(((ethoxycarbonyl)methoxy)methyl)pyrrolidin-1-carboxylic acid tert-butylester | 4.7 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COCC(=O)OCC | C14H25NO5
